US05602246
Cold 56% HF-pyridine (20.0 mL, 24.3 g) was added rapidly via syringe to a 100 mL plastic bottle which had been charged with 2-aminoadenosine (4.80 g, 17.0 mmol) and equipped with a 1" magnetic spin bar with a teflon-coated thermometer and a nitrogen line were fitted through the rubber septum. The mixture was stirred without external cooling until it became homogeneous the solution was cooled to -15° C. and tert-butylnitrite (2.50 mL, 18.9 mmol, 90%) was added via syringe over a 20 min. period with the internal temperature maintained at -10° C.--15° C. The reaction was stirred at -10° C.--12° C. for 40 min., then the mixture was cooled to -15° C. and anhydrous pyridine (16.6 mL, 0.205 mol) was added via syringe. The internal temperature was kept below -10° C. during the first quarter of the addition, then was allowed to rise to 0° C. during the remainder of the addition. Acetic anhydride (8.02 mL, 85 mmol) was added rapidly via syringe and the cooling bath was removed. Gentle gas evolution was observed as the temperature warmed to about 10° C. The temperature continued to rise slowly to 25° C. over 45 min. Stirring was continued at ambient temperature and the reaction was monitored occasionally by TLC. After stirring overnight, some of the desired product had precipitated from solution, and TLC showed mostly the desired tri-O-acetyl derivative, with less than 10% of the di-O-acetyl intermediates remaining. The reaction was quenched by pouring the thick slurry into a stirred solution of ortho-boric acid (10.51 g, 0.17 mol, H3BO3) in deionized water (200 mL) at 25° C. Ice (60 g) was added to the resulting thin slurry, to keep the temperature below 30° C. This slurry (pH 4.5) was stirred for 15 min., then the precipitate was collected by filtration and was washed with water (2×20 mL) and methanol (2×10 mL) and was air dried to obtain 3.5 g (50% yield) of 2-fluoro-2',3',5'-tri-O-acetyladenosine as an off-white powder, mp 195°-196° C.

reactant | HF-pyridine | 20.0 mL, 24.3 g | C1=CC=NC=C1.F
reactant | 2-aminoadenosine | 17.0 mmol, 4.80 g | NC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H14N6O4
reactant | tert-butylnitrite | 18.9 mmol, 2.50 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | pyridine | 0.205 mol, 16.6 mL | N1=CC=CC=C1 | C5H5N
reactant | Acetic anhydride | 85 mmol, 8.02 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ortho-boric acid | 0.17 mol, 10.51 g | B(O)(O)O | BH3O3
solvent | water | 200 mL | O | H2O
product | 2-fluoro-2',3',5'-tri-O-acetyladenosine | 3.5 g, 50% yield | FC=1N=C(C=2N=CN([C@H]3[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](COC(C)=O)O3)C2N1)N | C16H18FN5O7
